US06989399B2
To a solution of LAH (18.5 mL of a 1M solution in THF, 18.5 mmol) in THF (50 mL) at −78° C. was added dropwise a solution of N-(2,5-dichlorophenyl)-N-(1-carbomethoxyprop-2-yl)-4-chlorobenzenesulfonamide (6.5 g, 15.4 mmol) in THF (100 mL). After the addition was complete, the reaction was briefly allowed to warm to 0° C. followed by cooling to −78° C. The suspension was quenched with 0.5N HCl (20 mL) and stirred at room temperature for 3 h. The resulting precipitate was removed by filteration and the filter cake washed well with Et2O. The filtrate was dried over MgSO4 and concentrated in vacuo to afford 4-chloro-N-(2,5-dichlorophenyl)-N-(1R)-(2-hydroxy-1-methylethyl)benzenesulfonamide as a white wax (5.88 g, 98% yield): 1H NMR (CDCl3) δ 7.77 (d, 2H, J=7.0 Hz), 7.34–7.52 (m, 5H), 4.27–4.42 (m, 1H), 3.35–3.61 (m, 2H), 1.77 (s, br, 1H), 1.05–1.09 (m, 3H).

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | N-(2,5-dichlorophenyl)-N-(1-carbomethoxyprop-2-yl)-4-chlorobenzenesulfonamide | 15.4 mmol, 6.5 g | ClC1=C(C=C(C=C1)Cl)N(S(=O)(=O)C1=CC=C(C=C1)Cl)C(CC(=O)OC)C | C17H16Cl3NO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-(2,5-dichlorophenyl)-N-(1R)-(2-hydroxy-1-methylethyl)benzenesulfonamide | 98% yield | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CO)C)C1=C(C=CC(=C1)Cl)Cl | C15H14Cl3NO3S
